US07179812B2
3-Iodo-6-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyridazine (0.114 g, 0.25 mmol), 1-but-3-ynyl-1H-[1,2,3]triazole (0.040 g, 0.30 mmol) and triethyl amine (NEt3) (0.125 ml) are dissolved in THF (1 ml) and copper iodide (CuI) (0.0048 g, 0.025 mmol) is added under stirring. After passing a stream of argon through the mixture for 10 min bis(triphenylphosphine)palladium(II) dichloride (0.088 g, 0.0125 mmol) is added and stirring is continued for 3 h at r.t. Ethyl acetate (30 ml) is added; the mixture is washed with saturated ammonium chloride (NH4Cl) and brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/hexanes 1:3->ethyl acetate (100%)) yielding 3-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-6-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyridazine as a colorless solid. Yield 93 mg (64%).

reactant | 3-Iodo-6-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyridazine | 0.25 mmol, 0.114 g | IC=1N=NC(=CC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C17H11F3IN3O2
reactant | 1-but-3-ynyl-1H-[1,2,3]triazole | 0.30 mmol, 0.040 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | triethyl amine | 0.125 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.025 mmol, 0.0048 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.0125 mmol, 0.088 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-6-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyridazine | N1(N=NC=C1)CCC#CC=1N=NC(=CC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C23H17F3N6O2
